US20010014683A1
(i) Methyl 3-fluoro-4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate
This was prepared from 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(S)-phenylethanol and 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol and methyl 3-fluoro-4-methylaminobenzoate in 52% yield according to the procedures similar to those described in Example 29 (i).

reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(S)-phenylethanol | COCO[C@@H]1CN(CC1)[C@H](CO)C1=CC=CC=C1 | C14H21NO3
reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol | COCO[C@@H]1CN(CC1)[C@@H](CO)C1=CC=CC=C1 | C14H21NO3
reactant | methyl 3-fluoro-4-methylaminobenzoate | FC=1C=C(C(=O)OC)C=CC1NC | C9H10FNO2
product | Methyl 3-fluoro-4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate | 52% yield | FC=1C=C(C(=O)OC)C=CC1N(C)[C@H](CN1C[C@H](CC1)OCOC)C1=CC=CC=C1 | C23H29FN2O4
